US07572785B2
Step A: 2-(4-Chlorophenyl)-1-(2,4-dichlorophenyl)ethanone
A 5 L round bottom flask equipped with an addition funnel, N2 inlet, thermometer and a mechanical stirrer was charged with 387 mL of 1M sodium bis-trimethylsilylamide in TBF and cooled to −60° C. A solution of 230 g (1.35 mol) of 4-chlorophenylacetic acid in 300 mL of THF was added keeping the temperature below −40° C. After stirring the mixture for 90 min at −70° C., 264 g (1.29 mol) of methyl 2,4-dichlorobenzoate was added over 20 min. The solution was stirred for 40 min at −70° C., the cooling bath was removed and the mixture was allowed to warm to 0° C. Reaction was quenched by pouring into 4 L of 2N HCl and ice and extracted with ether. Each ether layer was washed with saturated NaHCO3, brine, dried with MgSO4 and filtered through a 2″ plug of silica gel. The filtrate was concentrated to ca. 1 lit of a slushy liquid which was diluted with 1 L of hexane and cooled in a refrigerator. The solid formed was filtered, washed with hexane and dried. A second crop was isolated by concentrating the mother liquors. The two crops of crystals were combined.

reactant | sodium bis-trimethylsilylamide | 1M, 387 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 4-chlorophenylacetic acid | 1.35 mol, 230 g | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | methyl 2,4-dichlorobenzoate | 1.29 mol, 264 g | ClC1=C(C(=O)OC)C=CC(=C1)Cl | C8H6Cl2O2
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 2-(4-Chlorophenyl)-1-(2,4-dichlorophenyl)ethanone | ClC1=CC=C(C=C1)CC(=O)C1=C(C=C(C=C1)Cl)Cl | C14H9Cl3O
